US08703797B2
N-(3,5-Dichlorophenyl)-2-(4-isopropyl-1,8-naphthyridin-2-yl)hydrazinecarboxamide:
A 100 mg (0.5 mmol) sample of 2-hydrazinyl-4-isopropyl-1,8-naphthyridine and 94 mg (1.0 eq) of 3,5-dichlorophenyl isocyanate were reacted as outlined in Scheme 1 above to give the desired title compound. Spectroscopic data: 1H NMR (300 MHz, DMSO-d6) δ ppm 1.23 (d, J=6.74 Hz, 6 H) 3.56 (d, J=6.74 Hz, 1 H) 6.82 (s, 1 H) 7.04 (t, J=1.76 Hz, 1 H) 7.23 (dd, J=8.20, 4.40 Hz, 1 H) 7.59 (br. s., 2 H) 8.31 (d, J=1.47 Hz, 1 H) 8.54 (br. s., 1 H) 8.66 (d, J=1.17 Hz, 1 H) 8.99 (br. s., 1 H) 9.25 (br. s., 1 H).

reactant | 2-hydrazinyl-4-isopropyl-1,8-naphthyridine | N(N)C1=NC2=NC=CC=C2C(=C1)C(C)C | C11H14N4
reactant | 3,5-dichlorophenyl isocyanate | 94 mg, 1.0 eq | ClC=1C=C(C=C(C1)Cl)N=C=O | C7H3Cl2NO
product | N-(3,5-Dichlorophenyl)-2-(4-isopropyl-1,8-naphthyridin-2-yl)hydrazinecarboxamide | ClC=1C=C(C=C(C1)Cl)NC(=O)NNC1=NC2=NC=CC=C2C(=C1)C(C)C | C18H17Cl2N5O
